US05554620
To a suspension of 4 g (0.16 mol) of sodium hydride in 200 ml of DMF at 0° C. was added 10 g (0.145 mol) of 1,2,4-triazole in 75 ml of DMF dropwise over a period of 30 minutes, and the mixture was allowed to warm to room temperature and stirred for 1 h. The above mixture was cooled to 0° C., 25 g (0.16 mol) of p-methoxybenzyl chloride was added, the mixture was allowed to warm to room temperature, and stirred for 16 h. The reaction mixture was concentrated in vacuo and the residue was purified by chromatography on silica (hexane/ethyl acetate) to afford 21.9 g (64.5%) of 1-(p-methoxybenzyl)-1,2,4-triazole.

reactant | sodium hydride | 0.16 mol, 4 g | [H-].[Na+]
reactant | 1,2,4-triazole | 0.145 mol, 10 g | N1N=CN=C1 | C2H3N3
reactant | p-methoxybenzyl chloride | 0.16 mol, 25 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 1-(p-methoxybenzyl)-1,2,4-triazole | 21.9 g, 64.5% | COC1=CC=C(CN2N=CN=C2)C=C1 | C10H11N3O
